US05013476
A solution of 0.9 g of 2-(4'-hydroxy-4-biphenylyl)-5-(4-pentenyl)-m-dioxane and 1.25 g of (S)-1-bromo-4-methylhexane in 25 ml of N,N-dimethylformamide was treated with 1.2 g of finely powdered potassium carbonate and the mixture was stirred overnight in an oil bath of 60° C. The suspension was suction filtered and the filtrate was concentrated in a vacuum. A solution of the residue in diethyl ether was washed twice with water, dried over sodium sulphate and concentrated. Chromatography of the crude product on 40 g of silica gel with hexane/ethyl acetate (vol. 23:2) and two-fold recrystallization from ethyl acetate gave pure (S)-trans-2-[4'-(4-methylhexyloxy)-4-biphenylyl]-5-(4-pentenyl)-m-dioxane; phase transition (S-S) 99.5° C., phase transition (S-SC *) 127° C., phase transition (SC *-Ch) 130° C., cl.p. (Ch-I) 148° C.

reactant | 2-(4'-hydroxy-4-biphenylyl)-5-(4-pentenyl)-m-dioxane | 0.9 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C1OCC(CO1)CCCC=C | C21H24O3
reactant | (S)-1-bromo-4-methylhexane | 1.25 g | BrCCC[C@H](CC)C | C7H15Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (S)-trans-2-[4'-(4-methylhexyloxy)-4-biphenylyl]-5-(4-pentenyl)-m-dioxane | C[C@H](CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1OC[C@H](CO1)CCCC=C)CC | C28H38O3
